Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
R temporal/parietal IPH

 
Major Surgical or Invasive Procedure:
Intubation/Extubation
 
History of Present Illness:
___ is a ___ year old female with hypertension,
hyperlipidemia, and hx of polio who ambulates with crutches at
baseline, but is very self sufficient who was transferred from
___ due to a large R temporal/parietal
intraparenchymal bleed with midline shift, subfalcine herniation
and transtentorial herniation.  

Family reports that Ms. ___ was last seen well by her 
apartment
manager on ___ at 10:30am.  At that time, she appeared to be
in good spirits and was at her baseline.  She was looking 
forward
to a luncheon that was planned in her apartment today at 1:30pm. 

At 1:00pm, her niece-in-law called her without an answer.  When
her niece came over to her apartment, she did not answer the
phone or door bell.  The apartment manager helped her niece gain
access into the apartment.  They called her name and she
responded.  She was found sitting on the ground of her apartment
with a crutch underneath her left leg and leaning on a cabinet. 
She denies falling.  However, her dish rack had fallen into the
sink, so her niece had suspicions she may have indeed fell.  She
said that she was looking for her crutch but was able to find 
it.

Ms. ___ was then taken by EMS to ___ where a CT
of the head showed a right temporal/parietal acute hematoma
measuring 75cc with significant mass effect, subfalcine
herniation and transtentorial herniation.  Additionally, an 
acute
right 8mm  epidural was seen overlying the right cerebral
hemisphere.  She was ___ transferred to ___ for further
care.

In the ___ ED, Neurosurgery initially evaluated the pt.  At
time of arrival, her GCS was 14.  However, she quickly
decompensated with SBPs to the 200s and became obtunded.  She
required intubation for airway protection.  She was given
mannitol x 1, Keppra 1gm, and started on a nicardipine drip.  
CTA
of head and neck showed interval increase in size of the large
right parietal and temporal intraparenchymal hematoma, with
significant worsening shift of the normally midline structures.
There is now near complete effacement of the right lateral
ventricle, and worsening effacement of the suprasellar cistern.  


REVIEW OF SYSTEMS:
On neurologic review of systems, prior to today's episode, the
patient's family denies any recent headache, lightheadedness, or
confusion. Denies difficulty with producing or comprehending
speech. Denies loss of vision, blurred vision, dysarthria, or
dysphagia. Denies focal muscle weakness, numbness, parasthesia.
Denies loss of sensation. Denies bowel or bladder incontinence 
or
retention. Denies difficulty with gait.

On general review of systems, the patient's family denies any
recent fevers, or noticeable weight loss. Denies nausea, 
vomiting
or diarrhea. Denies myalgias, arthralgias, or rash.

 
Past Medical History:
- HTN
- HLD
- Hx of polio at ___
 
Social History:
___
Family History:
Noncontributory.
 
Physical Exam:
Admission Exam:
Vitals:  T:98.7   HR:65   BP:118/58   RR:18   SaO2:100% 
General:  Intubated and sedated on propofol and fentanyl
HEENT: NCAT, C-collar in place
___: Regular rate and rhythm
Pulmonary: Equal breath sounds
Abdomen: Soft, NT, ND

Neurologic Examination:
Inbubated and sedated.  Does not respond to voice. Pinpoint
pupils bilaterally that are sluggishly reactive.  No corneals. 
No occulocephalic reflex. No gag and no cough with ET tube
manipulation.  Does not withdraw to noxious stimuli in any
extremity. No reflexes. Toes mute bilaterally.      

Discharge Exam:
Patient expired.
 
Pertinent Results:
ADMISSION LABS:
___ 03:48PM BLOOD WBC-9.4# RBC-3.46* Hgb-10.9* Hct-33.5* 
MCV-97 MCH-31.5 MCHC-32.5 RDW-13.3 RDWSD-47.5* Plt ___
___ 03:48PM BLOOD Neuts-83.4* Lymphs-9.0* Monos-6.8 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-7.82* AbsLymp-0.84* 
AbsMono-0.64 AbsEos-0.01* AbsBaso-0.03
___ 03:48PM BLOOD ___ PTT-24.6* ___
___ 03:48PM BLOOD Glucose-182* UreaN-18 Creat-0.4 Na-140 
K-3.3 Cl-103 HCO3-24 AnGap-16
___ 03:48PM BLOOD Calcium-9.8 Phos-3.1 Mg-1.8
___ 04:01PM BLOOD K-3.4

DISCHARGE LABS:
N/a

IMAGES:
OSH CT:  There is a right temporal and parietal parietal acute 
hematoma measuring approximately 75 cc. There is significant 
mass
effect on the right lateral ventricle nearly completely
obliterating the ventricle and causing a subfalcine herniation.
There is transtentorial herniation with compromise of the basal
cisterns. 

There is an acute right epidural overlying the right cerebral 
hemisphere measuring a maximum of 8 mm thick. 

There is edema surrounding the hematoma and sulcal effacement of
the right cerebral hemisphere. The gray/white matter
differentiation is preserved. 

Low-attenuation of the left white matter is characteristic of
chronic microvascular anemic changes. 

The calvarium is normal. There is no fluid in the visualized
sinuses or mastoid air cells. 

___
CT HEAD WITHOUT CONTRAST: Interval increase in size of the large
right parietal and temporal intraparenchymal hematoma, with
significant worsening shift of the normally midline structures,
now measuring 1.5 cm, previously 6 mm. There is now near 
complete
effacement of the right lateral ventricle, and 
worsening effacement of the suprasellar cistern. The left 
lateral
ventricle has increased in size over the interval. Diffuse right
cerebral edema appears grossly similar.  No significant interval
change in the large right subdural hematoma. 
  
CTA HEAD AND NECK: Carotid and vertebral arteries, and vessels 
of
the circle of ___ are patent. No definite aneurysm 
identified.

 
Brief Hospital Course:
___ is a ___ year old female with hypertension, 
hyperlipidemia, and hx of polio transferred from ___ 
___ due to a large right temporal/parietal intraparenchymal 
bleed with midline shift, subfalcine herniation and 
transtentorial herniation.  On repeat imaging, findings worsened 
with increased large right parietal and temporal 
intraparenchymal bleed, with significant worsening midline shift 
and herniation.  Exam acutely worsened after presentation at 
___ which ultimately required intubation for airway 
protection.  Neurosurgery was involved early on, but both 
Neurosurgery and family agreed that this was a non-operative 
case.  Ms. ___ was admitted to the Neuro ICU. After additional 
discussions with the family, the decision was made to focus on 
comfort care, and the patient was terminally extubated. Patient 
expired ___.

 
Medications on Admission:
Metoprolol 50mg daily
 
Discharge Medications:
n/a
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
IPH with herniation
 
Discharge Condition:
n/a
 
Discharge Instructions:
Patient deceased
 
Followup Instructions:
___